US05891899
Following the procedure described in Example (v) using 4-[2-(9H-thioxanthen-9-yl)acetyl]benzonitrile (3 g, 8.8 mmol), ammonium carbonate (3.1 g, 3.2 mmol) and potassium cyanide (1.03 g, 5.8 mmol) in ethanol-water (1:1, 15 ml) gave after work up a yellow solid. This was purified on flash silica eluting with dichloromethane and then ethyl acetate. The ethyl acetate fractions were combined and evaporated to a solid which was triturated with dichloromethane to give 5-(4-cyanophenyl)-5-(9H-thioxanthen-9-ylmethyl) hydantoin as a yellow solid.

reactant | 4-[2-(9H-thioxanthen-9-yl)acetyl]benzonitrile | 8.8 mmol, 3 g | C1=CC=CC=2SC3=CC=CC=C3C(C12)CC(=O)C1=CC=C(C#N)C=C1 | C22H15NOS
reactant | ammonium carbonate | 3.2 mmol, 3.1 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 5.8 mmol, 1.03 g | [C-]#N.[K+]
reactant | ethanol water | 15 ml | C(C)O.O
product | 5-(4-cyanophenyl)-5-(9H-thioxanthen-9-ylmethyl) hydantoin | C(#N)C1=CC=C(C=C1)C1(C(NC(N1)=O)=O)CC1C2=CC=CC=C2SC=2C=CC=CC12 | C24H17N3O2S
